US09079889B2
To a solution of 6-bromo-5-fluoropicolinic acid (1.0 equiv.) in methanol (0.2 M) was added H2SO4 (4.2 equiv.) and the reaction was stirred at room temperature for two hours. Upon completion of the reaction as monitored by LC/MS, the reaction was diluted with ethyl acetate and quenched slowly with saturated aqueous NaHCO3. The reaction was poured into a separatory funnel and extracted with ethyl acetate. The organic phase was dried with magnesium sulfate, filtered, and concentrated in vacuo to provide methyl 6-bromo-5-fluoropicolinate as a white solid (>99%). LC/MS=233.9/235.9 (M+H), Rt=0.69 min.

reactant | 6-bromo-5-fluoropicolinic acid | 1.0 equiv. | BrC1=C(C=CC(=N1)C(=O)O)F | C6H3BrFNO2
reactant | H2SO4 | 4.2 equiv. | OS(=O)(=O)O | H2O4S
reactant | methanol | 0.2 M | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 6-bromo-5-fluoropicolinate | >99% | BrC1=C(C=CC(=N1)C(=O)OC)F | C7H5BrFNO2
